US04649221
To a suspension of 164.7 g of anhydrous dibasic sodium phosphate and 42.0 g of N,N'-dioctyl-p-xylylenediamine in 700 ml of dry tetrahydrofuran is added a solution of 62.0 g of benzoyl peroxide in 300 ml of tetrahydrofuran over a 30 minute period. The resulting suspension is heated under reflux for 17 hours and then cooled to room temperature. The insoluble material is removed by filtration and the filtrate is concentrated to a thick oil which upon flash chromatography (SiO2, 4:1 hexane:ethylacetate) affords 17.2 g of N,N'-dioctyl-N,N'-dibenzoyloxy-p-xylylenediamine, m.p. 80°-81° C. Saponification of 6.8 g of the above with 2.23 g of powdered potassium hydroxide in 50 ml of methanol yields 2.5 g of product as a white solid; m.p. 101°-103° C.

reactant | sodium phosphate | 164.7 g | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | N,N'-dioctyl-p-xylylenediamine | 42.0 g | C(CCCCCCC)NCC1=CC=C(C=C1)CNCCCCCCCC | C24H44N2
reactant | benzoyl peroxide | 62.0 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N,N'-dioctyl-N,N'-dibenzoyloxy-p-xylylenediamine | 17.2 g | C(CCCCCCC)N(CC1=CC=C(C=C1)CN(OC(C1=CC=CC=C1)=O)CCCCCCCC)OC(C1=CC=CC=C1)=O | C38H52N2O4
